US04849422
Grams 4.6 of 2-methylthio-4-chloropyrimidine-5-carboxylic acid ethyl ester and 6.4 g of 1-(2,3-dihydroxypropyl)piperazine in 50 ml dioxane were refluxed for 30 minutes. The mixture was cooled and settled, then the solvent was evaporated and the dried residue purified on column eluting with chloroform:methanol (9:1). Grams 4.8 of 2-methylthio-4-[4-(2,3-dihydroxypropyl)piperazin-1-yl]pyrimidine-5-carboxylic acid ethyl ester as an oil, were obtained.

reactant | 2-methylthio-4-chloropyrimidine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=NC(=NC1)SC)Cl | C8H9ClN2O2S
reactant | 1-(2,3-dihydroxypropyl)piperazine | 6.4 g | OC(CN1CCNCC1)CO | C7H16N2O2
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 2-methylthio-4-[4-(2,3-dihydroxypropyl)piperazin-1-yl]pyrimidine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=NC(=NC1)SC)N1CCN(CC1)CC(CO)O | C15H24N4O4S
